US08629271B2
a) 1-(4-Isopropylthiophen-2-yl)ethanone
1-(Thiophen-2-yl)ethanone (5.4 mL) was added to an ice cold suspension of aluminum chloride (33 g), in dry chloroform (100 mL). 2-Bromopropane (5.2 mL) was then added dropwise over 5 min. The reaction was allowed to warm to RT and stirred overnight. The dark suspension was cautiously poured onto ice and the mixture stirred for 10 min. The layers were separated and the aqueous phase extracted with DCM (100 mL). The combined organic layers were washed with sodium hydroxide solution (2M, 200 mL) and water (200 mL), dried over sodium sulphate, filtered and evaporated. The residue was purified by silica gel chromatography eluting with 2% ethyl acetate in isohexane. The fractions containing product were combined and evaporated to give the subtitled compound as a light yellow oil. Yield 5.4 g.

reactant | 1-(Thiophen-2-yl)ethanone | 5.4 mL | S1C(=CC=C1)C(C)=O | C6H6OS
reactant | aluminum chloride | 33 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-Bromopropane | 5.2 mL | BrC(C)C | C3H7Br
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-Isopropylthiophen-2-yl)ethanone | C(C)(C)C=1C=C(SC1)C(C)=O | C9H12OS
